US07067665B2
(ii) 4-Aminomethyl-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester
4-Cyano-4-trimethylsilanyloxy-piperidine-1-carboxylic acid tert-butyl ester (7.5 g) was dissolved in 100 ml of tetrahydro-furan under an argon atmosphere. A solution of lithium aluminium hydride in tetrahydro-furan (30 ml, 1 molar) was dropwise added at 0° C. After stirring for 15 hours at room temperature, a sodium hydroxide solution (20%) was slowly added under cooling. The solid was filtered after dilution with ethyl acetate and the organic layer evaporated. The crude material contains a mixture of the desired product (MS: 231.2 (M+H)+) and the corresponding trimethylsiliyl ether (MS: 303.1 (M+H)+) and was used without further purification.

reactant | 4-Cyano-4-trimethylsilanyloxy-piperidine-1-carboxylic acid tert-butyl ester | 7.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(O[Si](C)(C)C)C#N | C14H26N2O3Si
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydro-furan | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydro-furan | 1 molar, 30 ml | O1CCCC1 | C4H8O
product | 4-Aminomethyl-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)CN | C11H22N2O3
